US08686147B2
2f) Ethyl 4-benzylisonipecotate
A mixture of ethyl isonipecotate (65 mmol; 10.2 g), anhydrous potassium carbonate (195 mmol; 26.9 g) and benzyl bromide (78 mmol; 13.36 g) in anhydrous N,N-dimethylformamide (100 ml) was stirred at 70° C. for 18 hours. After cooling, the reaction mixture was diluted with water (300 ml) and extracted with ethyl acetate (3×200 ml). The combined organic phases were washed with saturated NaCl solution (3×100 ml), dried over sodium sulfate and evaporated under reduced pressure. A crude product was obtained, which was purified on a column of alumina (eluting with chloroform) to give 13.84 g (86%) of pure product as a yellow oil.

reactant | ethyl isonipecotate | 65 mmol, 10.2 g | N1CCC(C(=O)OCC)CC1 | C8H15NO2
reactant | potassium carbonate | 195 mmol, 26.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 78 mmol, 13.36 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | 300 ml | O | H2O
product | Ethyl 4-benzylisonipecotate | 13.84 g, 86% | C(C1=CC=CC=C1)C1(CCNCC1)C(=O)OCC | C15H21NO2
